US08895776B2
Step B: Preparation of 2,3-Difluorophenyl(phenyl)carbamic Chloride
2,3-Difluoro-N-phenylaniline (100 mg, 0.487 mmol) and triphosgene (159 mg, 0.536 mmol) were dissolved in CH2Cl2 (1 mL). The solution was cooled in an ice bath, and pyridine (79 μL, 0.975 mmol) was added slowly. Upon complete addition, the reaction was warmed to room temperature and stirred for 1 h. Then, it was cooled in an ice bath and quenched by the slow addition of H2O (1 mL). The reaction mixture was extracted with H2O (5 mL) and CH2Cl2 (5 mL). The aqueous layer was extracted again with CH2Cl2 (5 mL). The organic layers were combined and washed once with H2O (10 mL), dried over MgSO4, and concentrated. The residue was purified by silica gel column chromatography to yield the title compound as a light brown oil (114.7 mg).

reactant | 2,3-Difluoro-N-phenylaniline | 0.487 mmol, 100 mg | FC1=C(NC2=CC=CC=C2)C=CC=C1F | C12H9F2N
reactant | triphosgene | 0.536 mmol, 159 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyridine | 0.975 mmol, 79 μL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2,3-Difluorophenyl(phenyl)carbamic Chloride | 114.7 mg | FC1=C(C=CC=C1F)N(C(=O)Cl)C1=CC=CC=C1 | C13H8ClF2NO
